US04863942
2.5 g of 10% palladium-on-carbon are added to a solution of 10 g (25.1 mmol) of 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propoxy]-6-nitrobenzonitrile and 10 g of cyclohexene in 500 ml of ethanol and the whole is heated under reflux for 30 minutes. After cooling to room temperature the mixture is filtered and freed of solvent. Ether is added to the residue and the crystals that have separated out are filtered off. 2-amino-6-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-benzonitrile having a melting point of 120°-122° C. is obtained.

reactant | 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propoxy]-6-nitrobenzonitrile | 25.1 mmol, 10 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=C1)CCC)O | C21H22N2O6
reactant | cyclohexene | 10 g | C1=CCCCC1 | C6H10
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 2.5 g | [Pd] | Pd
product | 2-amino-6-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-benzonitrile | NC1=C(C#N)C(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C21H24N2O4
